Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Amoxicillin / Codeine / Latex / Lactose / Shellfish Derived
 
Attending: ___.
 
Chief Complaint:
diarrhea, nausea, vomitting
 
Major Surgical or Invasive Procedure:
hemodialysis

 
History of Present Illness:
___ with history of ESRD on HD, history of C. diff, cirrhosis, 
systolic and diastolic HF, chronic Pain, Hypothyroidism, and 
restless Leg Syndrome, who presents with nausea, diarrhea x few 
days and chills.  No fevers.  He has a history of C diff for 
which he takes PO vancomycin.
.
He missed dialysis yesterday because he felt unwell (usually 
tues thurs sat).  In the ED, he got calcium gluconate for 
elevated K+ although sample was hemolyzed and repeat K was 
normal.  He also got d50 for hypoglycemia.  CXR was concerning 
for right pleural effusion.  He is admitted for hemodialysis as 
an inpatient.
.  
Currently, he reports some nausea and thirst.  He denies pain 
and difficulty breathing.

 
Past Medical History:
-ESRD of unknown etiology: s/p HD fistula RUE, on HD ___ 
at ___ in ___  
-Anemia ___ esrd  
-CAD with positive stress test ___  
-Systolic CHF - EF 20% from ___ TTE; RV systolic  
dysfunction/global free wall hypokinesis; 1+MR; "significant" 
PR.  
-HTN  
-Psoriasis  
-L3 burst fracture w/ neurologic compromise and retropulsion  
onto cauda L2-L4  
-Status post anterior-posterior spinal fusion of ___ 
 
-MSSA L2-L3 osteo/epidural abscess  
-MSSA Paraspinal abscess  
-Hx of MSSA bacteremia - ___  
-Hypothyroid  
-H/o sacral decub & groin ulcer  
-Restless leg syndrome  
-H/o abdominal fluid collection drained s/p anterior spinal  
fusion  

 
Social History:
___
Family History:
Father died of MI in ___ mother alive and well ___; 8 siblings, 
one of whom has HTN, one who has a cerebral aneurysm; he has no 
children.
 
Physical Exam:
VS: 98.1 67 141/77 20 100% 
GEN: NAD, alert and oriented
HEENT: sclera anictierc, oropharynx clear, MMM, dried blood on 
cheek,
Lungs: limited inspiratory effort, rhonchi present at right 
base, no wheezes, no labored breathing or use of accessory 
muscles
CV: RRR, no r/m/g
Abd: soft, NT, slight distension, no masses/organomegaly
Ext: wwp, no edema, dry skin

 
Pertinent Results:
___ 02:42PM   COMMENTS-GREEN TOP
___ 02:42PM   K+-4.3
___ 02:35PM   GLUCOSE-180* UREA N-21* CREAT-5.2* SODIUM-138 
POTASSIUM-4.4 CHLORIDE-93* TOTAL CO2-24 ANION GAP-25*
___ 02:35PM   ALT(SGPT)-24 AST(SGOT)-43* ALK PHOS-238* TOT 
BILI-0.7
___ 02:35PM   LIPASE-22
___ 02:35PM   CALCIUM-10.0 PHOSPHATE-5.2* MAGNESIUM-2.0
___ 01:14PM   COMMENTS-K ADDED AT
___ 01:14PM   LACTATE-2.0 K+-7.6*
___ 01:00PM   GLUCOSE-61* UREA N-22* CREAT-5.1* SODIUM-134 
POTASSIUM-8.3* CHLORIDE-92* TOTAL CO2-25 ANION GAP-25*
___ 01:00PM   estGFR-Using this
___ 01:00PM   CALCIUM-9.5 PHOSPHATE-6.0* MAGNESIUM-2.2
___ 01:00PM   WBC-8.1 RBC-3.53* HGB-11.4* HCT-35.1* MCV-99* 
MCH-32.4*# MCHC-32.6 RDW-18.3*
___ 01:00PM   NEUTS-83* BANDS-1 LYMPHS-11* MONOS-4 EOS-1 
BASOS-0 ___ MYELOS-0
___ 01:00PM   HYPOCHROM-NORMAL ANISOCYT-2+ POIKILOCY-NORMAL 
MACROCYT-OCCASIONAL MICROCYT-NORMAL POLYCHROM-NORMAL
___ 01:00PM   PLT SMR-NORMAL PLT COUNT-___ with history of ESRD on HD, history of C. diff, cirrhosis, 
systolic and diastolic HF, chronic Pain, Hypothyroidism, and 
restless Leg Syndrome, who presents with nausea, diarrhea x few 
days and chills, admitted for dialysis.
.
#Diarrhea/n/v: likely gastroenteritis with sx improving and VSS. 
 He has a history of c diff for which his home dose of po vanc 
was continued. LFTs at baseline.  Stool studies pending at time 
of discharge.  Patient able to tolerate POs at time of 
discharge.  Patient able to walk with walker, at baseline, prior 
to discahrge.  Will notify PCP of admission and pending studies.
.
#Chronic kidney disease: Patient missed most recent dialysis 
appointment and may have missed his ___ appointment as well. 
 He normally gets dialysis tues thurs sat.  On admission to the 
ED, his K was elevated but this was a hemolyzed specimen and 
repeat K was normal (checked after he was given calcium 
gluconate).  He had some evidence of volume overload in CXR/lung 
exam.  He underwent dialysis on ___.  Per renal 
fellow, he should proceed with routinely scheduled dialysis on 
___.  His home medications and supplements were continued.
.
#psychiatric history: history of depression/anxiety.  No SI 
during hospital stay.  Home medications were continued.
.
#hypothyroidism: continued home dose of synthroid
.
#h/o HF: continued home medications
.
#h/o chronic pain: continue home medications.  Per recent pcp 
note, is on narcotic contract and is compliant with no concern 
for substance abuse

 
Medications on Admission:
B complex-vitamin C-folic acid [Renal Caps] 
1 mg Capsule 
1 Capsule(s) by mouth once a day  ___
Renewed ___,
 ___ 30 Capsule 6 (Six) ___ MD  
nr clonazepam 
1 mg Tablet 
1 Tablet(s) by mouth at bedtime  ___
Renewed ___,
 ___ 30 Tablet 6 (Six)    
  fluoxetine 
20 mg Tablet 
one Tablet(s) by mouth every day.  ___
Modified ___,
 ___ 30 Tablet 3 (Three) ___  
  gabapentin 
300 mg Capsule 
2 Capsule(s) by mouth 1 or 2 tabs bid and 3 tabs at HS  
___
Renewed ___,
 ___ 150 Capsule 6 (Six) ___ MD  
nr hydromorphone 
4 mg Tablet 
1 Tablet(s) by mouth q 6 hours for pain  ___
Renewed ___,
 ___ 112 Tablet 0 (Zero)   Allergy Alert  
  levothyroxine [Synthroid] 
125 mcg Tablet 
1 Tablet(s) by mouth once a day  ___
Renewed ___,
 ___ 30 Tablet 6 (Six) ___ MD  
  lisinopril 
5 mg Tablet 
1 Tablet(s) by mouth once daily  ___
Modified ___,
 ___ 30 Tablet 6 (Six) ___ MD  
nr lorazepam 
1 mg Tablet 
1 Tablet(s) by mouth once a day  ___
Renewed ___,
 ___ 30 Tablet 6 (Six)    
  metoprolol succinate 
100 mg Tablet Sustained Release 24 hr 
1 Tablet(s) by mouth once a day  ___
Renewed ___,
 ___ 30 Tablet 12 (Twelve) ___  
  ropinirole 
0.25 mg Tablet 
1 Tablet(s) by mouth HS  ___
Renewed
Start date: ___ ___,
 ___ 90 Tablet 3 (Three) ___  
  sevelamer HCl [Renagel] 
800 mg Tablet 
1 Tablet(s) by mouth three times a day  ___
Renewed ___,
 ___ 90 Tablet 6 (Six) ___ MD  
nr vancomycin 
125 mg (2.5 ml) once a day mixed as a 14 day supply  ___
Renewed ___,
 ___ 35 ml 6    
nr vit c 
500 mg once daily (Prescribed by Other Provider)  ___
Recorded Only ___,
 ___.        
  * OTCs *             
  aspirin 
81 mg Tablet, Chewable 
1 Tablet(s) by mouth once a day (OTC)  ___
Recorded Only ___,
 ___ EX        
  B complex vitamins 
Capsule 
1 Capsule(s) by mouth once a day (Prescribed by Other Provider; 
med rec)  ___
Recorded Only ___,
 ___        
  lactobacillus acidoph & bulgar [Lactinex] 
1 million cell Tablet, Chewable 
1 tab Tablet(s) by mouth twice daily Pt. has no recollection of 
taking this medication (Prescribed by Other Provider) 
 
Discharge Medications:
1. B complex-vitamin C-folic acid 1 mg Capsule Sig: One (1) Cap 
PO DAILY (Daily).  
2. clonazepam 1 mg Tablet Sig: One (1) Tablet PO QHS (once a day 
(at bedtime)).  
3. fluoxetine 20 mg Capsule Sig: One (1) Capsule PO DAILY 
(Daily).  
4. gabapentin 300 mg Capsule Sig: One (1) Capsule PO QHD (each 
hemodialysis).  
5. hydromorphone 4 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for pain.  
6. levothyroxine 125 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
7. lisinopril 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

8. lorazepam 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
9. metoprolol succinate 100 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO DAILY (Daily).  
10. ropinirole 0.25 mg Tablet Sig: One (1) Tablet PO QPM (once a 
day (in the evening)).  
11. sevelamer HCl 400 mg Tablet Sig: Two (2) Tablet PO TID 
W/MEALS (3 TIMES A DAY WITH MEALS).  
12. vancomycin 125 mg Capsule Sig: One (1) Capsule PO once a 
day.  
13. ascorbic acid ___ mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
14. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
15. Vitamin B Complex     Capsule Oral

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
diarrhea/nausea, likely gastroenteritis, self-resolved
chronic end stage kidney disease on HD

hypothyroidism
depression
chronic pain on narcotic contract
CAD
systolic CHF
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
Dear Mr ___,
It was a pleasure participating in your health care.  You were 
admitted to ___ with diarrhea, 
nausea, and vomitting which improved with supportive care.  You 
missed a dialysis appointment and you received dialysis while 
you were in the hospital.

No changes were made to your medications.  Please continue your 
home medications.  Please continue dialysis on ___, 
___, and ___.
 
Followup Instructions:
___